US03962445
a. 1-Ethyl-4-hydroxy carbostyril
A solution of N-ethyl anthranilic acid (12.0g; 0.073 mole) in acetic acid (37 ml) and acetic anhydride (37ml) was refluxed for 4 hrs. The red solution was cooled, poured onto crushed ice and made alkaline with aqueous sodium hydroxide. After filtering the yellow filtrate was neutrallised with concentrated hydrochloric acid (pH 5) and the yellow solid filtered and washed with water. Recrystallisation from acetic acid in the presence of charcoal gave the title compound as an orange solid, m.p. 273°-275°C. (Found: C, 69.85; H, 6.04; N, 7.29; C11H11NO2 requires: C, 69.83; H, 5.86; N, 7.40%).

reactant | N-ethyl anthranilic acid | 0.073 mole, 12.0g | C(C)NC=1C(C(=O)O)=CC=CC1 | C9H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 37 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 37ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Ethyl-4-hydroxy carbostyril | C(C)N1C(=O)C=C(C2=CC=CC=C12)O | C11H11NO2
